US07553845B2
Benzyl [7-{N-(ethoxycarbonyl)amino}-3-(3-methoxy-4-nitrobenzoyl)-2-methylindolizin-1-yl]carboxylate
This compound is prepared according to the same method as that described in Example 47 Step B from 1.8 g (4.1 mmol) of 4-[N-(ethoxycarbonyl)amino]-1-[2-(3-methoxy-4-nitrophenyl)-2-oxoethyl]pyridinium bromide with benzyl crotonate in the presence of manganese oxide as oxidizing agent. 573 mg of a yellow powder are obtained.

reactant | 4-[N-(ethoxycarbonyl)amino]-1-[2-(3-methoxy-4-nitrophenyl)-2-oxoethyl]pyridinium bromide | 4.1 mmol, 1.8 g | [Br-].C(C)OC(=O)NC1=CC=[N+](C=C1)CC(=O)C1=CC(=C(C=C1)[N+](=O)[O-])OC
reactant | benzyl crotonate | C(\C=C\C)(=O)OCC1=CC=CC=C1 | C11H12O2
catalyst | manganese oxide | [O-2].[Mn+2]
product | Benzyl [7-{N-(ethoxycarbonyl)amino}-3-(3-methoxy-4-nitrobenzoyl)-2-methylindolizin-1-yl]carboxylate | 573 mg, Yield: 26% | C(C)OC(=O)NC=1C=CN2C(=C(C(=C2C1)C(=O)OCC1=CC=CC=C1)C)C(C1=CC(=C(C=C1)[N+](=O)[O-])OC)=O | C28H25N3O8
